US07001888B2
To a solution of 4-iodobenzoic acid (1 mmol) in DMF (2 mL) was added pentafluorophenol (2 mmol) and diisopropylcarbodiimide (1.2 mmol). The solution was stirred at room temperature for 6 hours and then added to a solution of glucosamine hydrochloride (1 mmol) and NEt3 (2 mmol) in DMF/H2O (1 mL, 1:10 v/v). The reaction was stirred for 16 hours and then crystallized from hot water to yield 4-iodobenzoyl glucosamine, compound TP010. The structure of TP010 is shown below (R is I).

reactant | 4-iodobenzoic acid | 1 mmol | IC1=CC=C(C(=O)O)C=C1 | C7H5IO2
reactant | pentafluorophenol | 2 mmol | FC1=C(C(=C(C(=C1O)F)F)F)F | C6HF5O
reactant | diisopropylcarbodiimide | 1.2 mmol | C(C)(C)N=C=NC(C)C | C7H14N2
reactant | glucosamine hydrochloride | 1 mmol | Cl.OC1[C@H](N)[C@@H](O)[C@H](O)[C@H](O1)CO
reactant | NEt3 | 2 mmol | CCN(CC)CC | C6H15N
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | DMF H2O | 1 mL | CN(C)C=O.O
product | 4-iodobenzoyl glucosamine | IC1=CC=C(C(=O)C2(O)[C@H](N)[C@@H](O)[C@H](O)[C@H](O2)CO)C=C1 | C13H16INO6
